US03932466
2-amino-4-oxo-8-methoxy-4H-1-benzopyran-3-carbonitrile.
-- In the same way as described in Example 3, 2-acetoxy-3-methoxybenzoyl chloride and malononitrile are reacted to give a crystalline product, mp 300°C.

reactant | 2-acetoxy-3-methoxybenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1OC | C10H9ClO4
reactant | malononitrile | C(CC#N)#N | C3H2N2
product | 2-amino-4-oxo-8-methoxy-4H-1-benzopyran-3-carbonitrile | NC=1OC2=C(C(C1C#N)=O)C=CC=C2OC | C11H8N2O3
